US04547514
3-(2,6-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride
To a solution of 170 ml of 2M phosgene (0.34 mole) stirred at 15° C. was added 109.2 g (0.34 mole) of 1-benzyl-3-(2,6-dichlorophenoxy)pyrrolidine in 300 ml of benzene. The color turned from yellow to deep amber. For convenience, the solution was allowed to stir for 72 hr, then concentrated to give a deep amber colored viscous oil. The oil was triturated with 1.6 liters of 30/60 petroleum ether. The petroleum ether wash was cooled to give 101.5 g of nearly pure title compound containing a trace of benzyl chloride. The yield was nearly quantitative.

reactant | phosgene | 0.34 mole, 2M, 170 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-3-(2,6-dichlorophenoxy)pyrrolidine | 0.34 mole, 109.2 g | C(C1=CC=CC=C1)N1CC(CC1)OC1=C(C=CC=C1Cl)Cl | C17H17Cl2NO
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 3-(2,6-Dichlorophenoxy)-1-pyrrolidinecarbonyl Chloride | ClC1=C(OC2CN(CC2)C(=O)Cl)C(=CC=C1)Cl | C11H10Cl3NO2
